US04371644
2,2-bis[4-{2-hydroxy-3-[3-(2-lauroyloxyethyl)-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl]propoxy}phenyl]propane (Compound No. 294)
To a mixed solvent consisting of 1.0 g of ethylene glycol and 1.0 g of t-butanol were added 3.9 g of 3-(2-lauroyloxyethyl)-7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione and 1.2 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane; the mixture was heated at 110°-120° C. for 60 hours and then at 160° C. for an additional 1 hour. After completion of the reaction, benzene was added to the reaction mixture, and the benzene solution was washed with water and condensed by evaporation under reduced pressure. The residue was washed with n-hexane and the resulting solid mass was purified by column chromatography using silica gel eluted with a 20:20:1 by volume mixture of benzene, ethyl acetate and methanol. The desired Compound No. 294 was obtained in the form of a white powder and had an Rf value of 0.64 on thin-layer chromatography on silica gel developed with a 10:10:1 by volume mixture of benzene, ethyl acetate and methanol.

reactant | ethylene glycol | 1.0 g | C(CO)O | C2H6O2
reactant | t-butanol | 1.0 g | C(C)(C)(C)O | C4H10O
reactant | 3-(2-lauroyloxyethyl)-7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 3.9 g | C(CCCCCCCCCCC)(=O)OCCN1C(NC2(C1=O)CC(NC(C2)(C)C)(C)C)=O | C25H45N3O4
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 1.2 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,2-bis[4-{2-hydroxy-3-[3-(2-lauroyloxyethyl)-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl]propoxy}phenyl]propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(CC2(C(N(C(N2)=O)CCOC(CCCCCCCCCCC)=O)=O)CC1(C)C)(C)C)O)CN1C(CC2(C(N(C(N2)=O)CCOC(CCCCCCCCCCC)=O)=O)CC1(C)C)(C)C | C71H114N6O12
